US07285563B2
(2-Bromo-4-fluorophenyl)methanol
To a solution of 2-bromo-4-fluorobenzoic acid (20 g; 91 mmol) in anhydrous THF (300 ml) at −10° C. was added dropwise borane tetrahydrofuran complex (1.0M soln in THF) (136.5 ml; 136.5 mmol). After complete addition the reaction was allowed to stir at room temperature for 4 hours. The reaction was quenched by the dropwise addition of water (20 ml). To the mixture was added saturated K2CO3 (200 ml) and water (300 ml). The organic layer was separated and the aqueous extracted with Et2O (2×300 ml). The combined organics were washed with water (2×500 ml), saturated NaCl (200 ml), dried over Na2SO4, filtered and evaporated to give the title compound (18 g, 96%) as a white solid.

reactant | 2-bromo-4-fluorobenzoic acid | 91 mmol, 20 g | BrC1=C(C(=O)O)C=CC(=C1)F | C7H4BrFO2
reactant | borane tetrahydrofuran | 136.5 mmol, 1.0M, 136.5 ml | O1CCCC1.B
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | (2-Bromo-4-fluorophenyl)methanol | 18 g, 96% | BrC1=C(C=CC(=C1)F)CO | C7H6BrFO
